US06265569B1
A mixture of 7-octynyl-p-toluenesulfonate (18.3 g, 65.2 mmol), sodium iodide (9.77 g, 65.2 mmol) and acetone (91 ml) was allowed to react for four hours under reflux. After cooling, the precipitates were removed by filtration, and the filtrate was concentrated. The resulting residue was purified by silica gel column chromatography (eluent; hexane) to afford 14.5 g of 8-iodo-1-octyne (yield; 94.2%).

reactant | 7-octynyl-p-toluenesulfonate | 65.2 mmol, 18.3 g | C(CCCCCC#C)OS(=O)(=O)C1=CC=C(C=C1)C | C15H20O3S
reactant | sodium iodide | 65.2 mmol, 9.77 g | [I-].[Na+]
solvent | acetone | 91 ml | CC(=O)C | C3H6O
product | 8-iodo-1-octyne | 14.5 g, yield; 94.2% | ICCCCCCC#C | C8H13I
